US06610723B2
1-(3,4-Dichloro-phenyl)-1H-imidazole-4-carboxylic Acid
A mixture of 3,4-dichloroaniline (24.3 g, 150 mmol), triethyl orthoformate (24.0 g, 162 mmol), ethyl nitroacetate (20.0 g, 150 mmol) and acetic acid (1 ml) was refluxed for 1 h. After addition of additional triethyl orthoformate (300 ml, 1.8 mol), iron powder (25.1 g, 450 mmol) and acetic acid (300 ml, 5.2 mol) the mixture was refluxed for 5 h. During this time, additional iron powder (25.1 g, 450 mmol) was added in 3 portions. The mixture was cooled to 60° C. and AcOEt (1 l) was added. After refluxing for 10 min, the precipitate was filtered and the filtrate was concentrated. Residual acetic acid was azeotropically removed by co-evaporation with toluene (500 ml). The crystalline residue was dissolved in dioxane (300 ml), 2N NaOH solution (300 ml) and charcoal (ca. 10 g) was added. The mixture was refluxed for 2 h, filtered and cooled to 5° C. HCl solution (37%) was added until precipitation was complete. Filtration and drying afforded the title compound (25.8 g, 67%) as light brown crystalline material. Mp.>235° C. dec. (H2O), MS: m/e=255 [(M−H)−]

reactant | 3,4-dichloroaniline | 150 mmol, 24.3 g | ClC=1C=C(N)C=CC1Cl | C6H5Cl2N
reactant | triethyl orthoformate | 162 mmol, 24.0 g | C(OCC)(OCC)OCC | C7H16O3
reactant | ethyl nitroacetate | 150 mmol, 20.0 g | [N+](=O)([O-])CC(=O)OCC | C4H7NO4
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | triethyl orthoformate | 1.8 mol, 300 ml | C(OCC)(OCC)OCC | C7H16O3
reactant | acetic acid | 5.2 mol, 300 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 450 mmol, 25.1 g | [Fe] | Fe
catalyst | iron | 450 mmol, 25.1 g | [Fe] | Fe
solvent | AcOEt | 1 l | CCOC(=O)C | C4H8O2
product | 1-(3,4-Dichloro-phenyl)-1H-imidazole-4-carboxylic Acid | 25.8 g, 67% | ClC=1C=C(C=CC1Cl)N1C=NC(=C1)C(=O)O | C10H6Cl2N2O2
